US07612114B2
Pivalic acid (S)-6-{2-[(4-carboxymethylbenzyl)ethylamino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester
Synthesized from pivalic acid (S)-6-(2-ethylamino-4,5-dimethoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (59 mg) and (4-formylphenyl)acetic acid (72 mg) according to an analogous synthetic method to Example 212,the title compound (79 mg) was obtained.

reactant | pivalic acid (S)-6-(2-ethylamino-4,5-dimethoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 59 mg | C(C)NC1=C(C=C(C(=C1)OC)OC)[C@@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C25H33NO4
reactant | (4-formylphenyl)acetic acid | 72 mg | C(=O)C1=CC=C(C=C1)CC(=O)O | C9H8O3
product | Pivalic acid (S)-6-{2-[(4-carboxymethylbenzyl)ethylamino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 79 mg | C(=O)(O)CC1=CC=C(CCCNC2=C(C=C(C(=C2)OC)OC)[C@@H]2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1 | C34H41NO6
